US06656938B2
A solution of tert-butyl 2-{2-[(3-aminoquinolin-4-yl)amino]ethoxy}ethylcarbamate (10.2 g, 29.5 mmol) in 250 mL of anhydrous CH2Cl2 was cooled to 0° C. and treated with triethylamine (4.18 mL, 30.0 mmol). Methoxypropionyl chloride (3.30 mL, 30.3 mmol) was then added dropwise over 5 min. The reaction was then warmed to room temperature and stirring was continued for 1 h. The reaction mixture was then concentrated under reduced pressure to give an orange solid. This was dissolved in 250 mL of EtOH and 12.5 mL of triethylamine was added. The mixture was heated to reflux and stirred under N2 overnight. The reaction was then concentrated to dryness under reduced pressure and treated with 300 mL of Et2O. The mixture was then filtered and the filtrate was concentrated under reduced pressure to give a brown solid. The solid was dissolved in 200 mL of hot MeOH and treated with activated charcoal. The hot solution was filtered and concentrated to give 11.1 g of tert-butyl 2-{2-[2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethylcarbamate as a yellow syrup.

reactant | tert-butyl 2-{2-[(3-aminoquinolin-4-yl)amino]ethoxy}ethylcarbamate | 29.5 mmol, 10.2 g | NC=1C=NC2=CC=CC=C2C1NCCOCCNC(OC(C)(C)C)=O | C18H26N4O3
reactant | triethylamine | 30.0 mmol, 4.18 mL | C(C)N(CC)CC | C6H15N
reactant | Methoxypropionyl chloride | 30.3 mmol, 3.30 mL | COCCC(=O)Cl | C4H7ClO2
reactant | triethylamine | 12.5 mL | C(C)N(CC)CC | C6H15N
reactant | charcoal | C | CH4
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
solvent | EtOH | 250 mL | CCO | C2H6O
solvent | MeOH | 200 mL | CO | CH4O
product | tert-butyl 2-{2-[2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethylcarbamate | 11.1 g | COCCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CCOCCNC(OC(C)(C)C)=O | C22H30N4O4
